US07528143B2
2-Chloro-5-methyl-N-(3,5-dimethylphenyl)pyrimidin-4-amine (Intermediate 51)
A mixture of 1-bromo-3,5-dimethylbenzene (104 μL, 0.77 mmol), 2-chloro-5-methyl-pyrimidin-4-ylamine (104 mg, 0.72 mmol), Pd(OAC)2 (15 mg, 0.07 mmol), Xantphos (83 mg, 0.14 mmol) and potassium tert-butoxide (159 mg, 1.42 mmol) in dioxane (8 mL) was microwaved at 160° C. for 20 min. The reaction mixture was cooled to room temperature and filtered rinsing with DCM and methanol. The filtrate was concentrated and purified using gradient flash chromatography (0-100% ethyl acetate in hexanes) to afford the title compound as a yellow oil (89 mg, 50%). MS (ES+): m/z 248 (M+H)+.

reactant | 1-bromo-3,5-dimethylbenzene | 0.77 mmol, 104 μL | BrC1=CC(=CC(=C1)C)C | C8H9Br
reactant | 2-chloro-5-methyl-pyrimidin-4-ylamine | 0.72 mmol, 104 mg | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | Xantphos | 0.14 mmol, 83 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium tert-butoxide | 1.42 mmol, 159 mg | CC(C)([O-])C.[K+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAC)2 | 0.07 mmol, 15 mg | CC(=O)O.CC(=O)O.[Pd]
product | 2-Chloro-5-methyl-N-(3,5-dimethylphenyl)pyrimidin-4-amine | 89 mg, 50% | ClC1=NC=C(C(=N1)NC1=CC(=CC(=C1)C)C)C | C13H14ClN3
